US08202885B2
BB28.3 [3-(4,5-Dimethoxy-7-methyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amine
Prepared from 3,4-dimethoxy-6-methyl-benzene-1,2-diamine in analogy to the methods described for [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | 3,4-dimethoxy-6-methyl-benzene-1,2-diamine | COC1=C(C(=C(C=C1OC)C)N)N | C9H14N2O2
reactant | [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=CC2=C(NC(=N2)CCCNC)C=C1OC | C13H19N3O2
product | [3-(4,5-Dimethoxy-7-methyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=C(C=C(C=2NC(=NC21)CCCNC)C)OC | C14H21N3O2
